US06350749B1
In water (55 ml) was dissolved sodium hydroxide (0.78 g), and to the mixture was added acetone (55 ml), and then added dropwise a solution of 2-chloro-5-fluorobenzaldehyde (2.8 g) in acetone (10 ml). The reaction solution was stirred at room temperature for 2 hours, and acetone was evaporated under reduced pressure. The residue was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine, and concentrated under reduced pressure to give 4-(2-chloro-5-fluorophenyl)-3-buten-2-one (0.24 g).

reactant | sodium hydroxide | 0.78 g | [OH-].[Na+]
reactant | 2-chloro-5-fluorobenzaldehyde | 2.8 g | ClC1=C(C=O)C=C(C=C1)F | C7H4ClFO
reactant | acetone | 10 ml | CC(=O)C | C3H6O
reactant | acetone | 55 ml | CC(=O)C | C3H6O
solvent | water | 55 ml | O | H2O
product | 4-(2-chloro-5-fluorophenyl)-3-buten-2-one | 0.24 g | ClC1=C(C=C(C=C1)F)C=CC(C)=O | C10H8ClFO
